US06262075B1
(a) 1-Cyclopropylcyclopentan-1-ol
To a solution of bromocyclopropane (2.54 ml, 31.7 mmol) in diethyl ether (50 ml) at −78° C. under nitrogen was added, dropwise, tert-butyllithium (18.2 ml of a 1.7 M solution in pentane, 31 mmol). Diethyl ether (30 ml) was then added and the mixture stirred for 1 hour at −78° C. A solution of cyclopentanone (2.74 ml, 34 mmol) in diethyl ether (40 ml) was then added dropwise. The reaction was stirred for 4 hours at −78° C. and was then allowed to warm to room temperature over 16 hours. Water (40 ml) was added, cautiously, and the aqueous layer extracted with diethyl ether (2×40 ml). The combined ether layers were dried using sodium sulphate, filtered and evaporated under reduced pressure to give an oily residue. This was chromatographed using silica gel eluting with a solvent gradient of dichloromethane:methanol (100:0 changing to 9:1, by volume) to provide the title compound (3.5 g). TLC Rf=0.4 (silica, dichloromethane:methanol, 9:1, by volume).

reactant | bromocyclopropane | 31.7 mmol, 2.54 ml | BrC1CC1 | C3H5Br
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | cyclopentanone | 34 mmol, 2.74 ml | C1(CCCC1)=O | C5H8O
reactant | Water | 40 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | pentane | CCCCC | C5H12
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | Diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 1-Cyclopropylcyclopentan-1-ol | 3.5 g | C1(CC1)C1(CCCC1)O | C8H14O
